US06608048B2
9-(3-Chloro-4-fluoroanilino)-1-[(2E)-4-(dimethylamino)-2-butenoyl]-2,3-dihydro-1H-[1,4]oxazino[3,2-g]quinoline-8-carbonitrile
An amount of the mixture 1-[(2E)-4-chloro-2-butenoyl]-9-(3-chloro-4-fluoroanilino)-2,3-dihydro-1H-[1,4]oxazino[3,2-g]quinoline-8-carbonitrile and 1-[(2E)-4-bromo-2-butenoyl]-9-(3-chloro-4-fluoroanilino)-2,3-dihydro-1H-[1,4]oxazino[3,2-g]quinoline-8-carbonitrile (0.708 g, 1.458 mmol), was dissolved in N,N-dimethylformamide (1.89 mL), and to this was added N,N-diisopropylethylamine (0.303 mL, 1.75 mmol), and 0.875 mL (1.75 mmol) of a 2.0 M solution of dimethylamine in tetrahydrofuran The reaction mixture was stirred for one hour, stored for 16 hours in the refrigerator, and then stirred with saturated sodium bicarbonate solution and brine. The solid was filtered off and washed with acetone to give a beige product (372 mg, 52% yield); m.p. 199-200° C.; 1H NMR (DMSO-d6) δ 9.70 (bs, 1H), 8.52 (s, 1H), 8.44 (bs, 1H), 7.47-7.37 (m, 3H), 7.25-7.23 (m, 1H), 6.86-6.79 (m, 1H), 6.62-6.57 (d, 1H), 4.44 (t, 2H), 4.06 (t, 2H), 3.02 (d, 2H), 2.06 (s, 6H); HRMS (Cl) m/z 466.1440 (M+1). Analysis for C24H21ClFN5O2.1.4H2O: Found: C, 60.48; H, 4.85; N, 14.49; F, 4.02; Cl, 7.52. Calcd: C, 60.28; H, 4.73; N, 14.66; F, 3.98; Cl, 7.32.

reactant | 1-[(2E)-4-chloro-2-butenoyl]-9-(3-chloro-4-fluoroanilino)-2,3-dihydro-1H-[1,4]oxazino[3,2-g]quinoline-8-carbonitrile | ClC/C=C/C(=O)N1CCOC=2C1=CC=1C(=C(C=NC1C2)C#N)NC2=CC(=C(C=C2)F)Cl | C22H15Cl2FN4O2
reactant | 1-[(2E)-4-bromo-2-butenoyl]-9-(3-chloro-4-fluoroanilino)-2,3-dihydro-1H-[1,4]oxazino[3,2-g]quinoline-8-carbonitrile | 1.458 mmol, 0.708 g | BrC/C=C/C(=O)N1CCOC=2C1=CC=1C(=C(C=NC1C2)C#N)NC2=CC(=C(C=C2)F)Cl | C22H15BrClFN4O2
reactant | N,N-diisopropylethylamine | 1.75 mmol, 0.303 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethylamine | CNC | C2H7N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 1.89 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 9-(3-Chloro-4-fluoroanilino)-1-[(2E)-4-(dimethylamino)-2-butenoyl]-2,3-dihydro-1H-[1,4]oxazino[3,2-g]quinoline-8-carbonitrile | 372 mg, 52% yield | ClC=1C=C(NC2=C(C=NC=3C=C4C(=CC23)N(CCO4)C(\C=C\CN(C)C)=O)C#N)C=CC1F | C24H21ClFN5O2
